US09034866B2
Synthesis of 3-(1-acetylazetidin-3-yl)-10-((1-hydroxycyclopentyl)ethynyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide
Similar to as described in General Procedure E, 3-(1-acetylazetidin-3-yl)-10-bromo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was reacted with 1-ethynylcyclopentanol to give the titled compound.

reactant | 3-(1-acetylazetidin-3-yl)-10-bromo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | C(C)(=O)N1CC(C1)C1=C(N=C2N1C1CC(C3=C2C=C(C=C3)Br)C1)C(=O)N | C19H19BrN4O2
reactant | 1-ethynylcyclopentanol | C(#C)C1(CCCC1)O | C7H10O
product | 3-(1-acetylazetidin-3-yl)-10-((1-hydroxycyclopentyl)ethynyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | C(C)(=O)N1CC(C1)C1=C(N=C2N1C1CC(C3=C2C=C(C=C3)C#CC3(CCCC3)O)C1)C(=O)N | C26H28N4O3
